US06028195
1-[(5-Ethyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl]-4-(2,3,5,6-tetramethylphenyl)piperazine
Phenyl N-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)carbamate and 1-(2,3,5,6-tetramethylphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl N-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)carbamate | C(C)C=1C=C(C(=NC1C)OC)NC(OC1=CC=CC=C1)=O | C16H18N2O3
reactant | 1-(2,3,5,6-tetramethylphenyl)piperazine | CC1=C(C(=C(C=C1C)C)C)N1CCNCC1 | C14H22N2
product | 1-[(5-Ethyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl]-4-(2,3,5,6-tetramethylphenyl)piperazine | yield: 69% | C(C)C=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=C(C(=CC(=C1C)C)C)C | C24H34N4O2
